US06576631B1
1-(4-methoxypyrimidin-2-yl)-benzimidazole (Compound Number I-667)
Benzimidazole (0.50 g) was dissolved in dimethylformamide (10 ml), and sodium hydride (60% purity, oily) (0.18 g) was added thereto at room temperature. After stirring for 1 hour, 2-chloro-4-methoxypyrimidine (0.62 g) was added at room temperature, followed by stirring for 3 hours. Ice water was added, followed by extraction with ethyl acetate, washing with a saturated sodium chloride aqueous solution and drying over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by silica gel column chromatography to obtain 0.40 g of the desired product as a white powder (m.p. 114-116° C.).

reactant | Benzimidazole | 0.50 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | sodium hydride | 0.18 g | [H-].[Na+]
reactant | 2-chloro-4-methoxypyrimidine | 0.62 g | ClC1=NC=CC(=N1)OC | C5H5ClN2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(4-methoxypyrimidin-2-yl)-benzimidazole | 0.40 g | COC1=NC(=NC=C1)N1C=NC2=C1C=CC=C2 | C12H10N4O
